US06872744B2
Step 1: Preparation of 2-methyl-6-methylsulfanyl-indole-1-carboxylic acid tert-butyl ester
2-Methyl-6-methylthioindole (13.9 g) prepared according to Allais A. et al. Eur. J. Med. Chem—Chim. Ther. (1975), 10(2),187-99, was dissolved in CH3CN (150 mL) followed by the addition of (BOC)2O (18 g) with 480 mg DMAP. After 5 h the mixture was evaporated to dryness and the resulting 2-methyl-6-methylsulfanyl-indole-1-carboxylic acid tert-butyl ester was purified by chromatography over silica gel.

reactant | 2-Methyl-6-methylthioindole | 13.9 g | CC=1NC2=CC(=CC=C2C1)SC | C10H11NS
reactant | (BOC)2O | 18 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 150 mL | CC#N | C2H3N
catalyst | DMAP | 480 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-methyl-6-methylsulfanyl-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)SC)C | C15H19NO2S
